* source I-NAND
V_V6         IN6 0  
+SIN 1.5 1.5 500k 0 0 0
V_V7         IN7 0  
+SIN 1.5 1.5 500k 0 0 0
V_V5         IN5 0  
+SIN 1.5 1.5 500k 0 0 0
V_V1         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M16         OUT IN4 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M5         OUT IN8 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M11         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
V_V2         IN2 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M9         OUT IN6 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M12         OUT IN5 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M1         OUT IN1 N67495 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M6         N66385 IN3 N66425 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M7         N66425 IN4 N66937 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VDD         N66465 0 3.3
V_V3         IN3 0  
+SIN 1.5 1.5 500k 0 0 0
M_M2         N67495 IN2 N66385 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M13         N67207 IN6 N67213 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M10         N66937 IN5 N67207 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M3         OUT IN2 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M14         N67213 IN7 N66527 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V4         IN4 0  
+SIN 1.5 1.5 500k 0 0 0
V_V8         IN8 0  
+SIN 1.5 1.5 500k 0 0 0
M_M8         OUT IN7 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M4         OUT IN3 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M15         N66527 IN8 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
