* source I-NAND
M_M16         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M5         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M11         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M9         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M12         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M1         OUT IN1 N67495 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M6         N66385 IN1 N66425 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M7         N66425 IN1 N66937 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VDD         N66465 0 3.3
M_M2         N67495 IN1 N66385 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M13         N67207 IN1 N67213 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M10         N66937 IN1 N67207 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M3         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M14         N67213 IN1 N66527 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_VIN         IN1 0 3.3
M_M8         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M4         OUT IN1 N66465 N66465 CMOSP  
+ L=.18u  
+ W=.2u         
M_M15         N66527 IN1 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
